US08975282B2
Step 2) 4-((2-chloro-4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)phenoxy)picolinamide
To a suspension of N-(3-chloro-4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (1.074 g, 3.0 mmol) in DMF (12 mL) was added t-BuOK (539 mg, 4.8 mmol). The mixture was stirred at rt for 30 minutes, then 4-chloropicolinamide (517 mg, 3.3 mmol) was added. The mixture was stirred at 120° C. for 36 hours, then cooled to rt, quenched with 50 mL of water and extracted with EtOAc (50 mL×3). The combined organic phases were washed with brine (50 mL×3), dried over anhydrous Na2SO4, and concentrated in vacuo. The residue was purified by a silica gel column chromatography (EtOAc/PE (v/v)=3/1) to give the title compound as a white solid (580 mg, 40.4%).

reactant | N-(3-chloro-4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 3.0 mmol, 1.074 g | ClC=1C=C(C=CC1O)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C18H16ClN3O3
reactant | t-BuOK | 4.8 mmol, 539 mg | CC(C)(C)[O-].[K+]
reactant | 4-chloropicolinamide | 3.3 mmol, 517 mg | ClC1=CC(=NC=C1)C(=O)N | C6H5ClN2O
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | (2-chloro-4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)phenoxy)picolinamide | 580 mg, 40.4% | ClC1=C(OC=2C(=NC=CC2)C(=O)N)C=CC(=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C24H20ClN5O4
